US07241791B2
Step 1: 3-(4-methoxyphenyl)-7-methyl-2-pentyl-2H-indazole
Prepared according to Method D step B from 3-(4-methoxyphenyl)-7-methyl-1H-indazole (0.23 g, 1.0 mmol), sodium hydride (60% in oil, 0.048 g, 1.2 mmol) and 1-iodopentane (0.26 mL, 2.0 mmol) to give the title compound (0.014 g). Used as is in the next step.

reactant | 3-(4-methoxyphenyl)-7-methyl-1H-indazole | 1.0 mmol, 0.23 g | COC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C | C15H14N2O
reactant | sodium hydride | 1.2 mmol, 0.048 g | [H-].[Na+]
reactant | 1-iodopentane | 2.0 mmol, 0.26 mL | ICCCCC | C5H11I
product | 3-(4-methoxyphenyl)-7-methyl-2-pentyl-2H-indazole | 0.014 g | COC1=CC=C(C=C1)C=1N(N=C2C(=CC=CC12)C)CCCCC | C20H24N2O
